US04616014
Sodium borohydride (1.98 g) and 3-(2-benzoylhydrazino)-5-methyl-6-phenyl-1,2,4-triazine (3.45 g) was reacted in a similar manner to that of Example 2-(2). The reaction mixture was diluted with diisopropyl ether and the resultant precipitates were collected, washed successively with water, methanol and diisopropyl ether, and recrystallized from a mixture of ethanol, chloroform and water to give colorless crystals of 3-(2-benzoylhydrazino)-5-methyl-6-phenyl-2,5-dihydro-1,2,4-triazine (1.76 g), m.p. 217.5°-218° C. (decomp.).

reactant | Sodium borohydride | 1.98 g | [BH4-].[Na+]
reactant | 3-(2-benzoylhydrazino)-5-methyl-6-phenyl-1,2,4-triazine | 3.45 g | C(C1=CC=CC=C1)(=O)NNC=1N=NC(=C(N1)C)C1=CC=CC=C1 | C17H15N5O
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 3-(2-benzoylhydrazino)-5-methyl-6-phenyl-2,5-dihydro-1,2,4-triazine | 1.76 g | C(C1=CC=CC=C1)(=O)NNC=1NN=C(C(N1)C)C1=CC=CC=C1 | C17H17N5O
